US09447106B2
To a solution of benzyl 2-(3-cyano-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidin-7-yl)phenylcarbamate (370 mg, 0.8 mmol) in 20 mL of DCM was added 4-fluorophenylboronic acid (167 mg, 1.2 mmol), TEA (162 mg, 1.6 mmol) and Cu(OAc)2 (216 mg, 1.2 mmol). After stirring at RT for 16 hr, 100 mL of DCM, 10 mL of CH3OH and 100 mL of brine were added to the mixture. Organic layers were separated from aqueous layers, washed with brine (100 mL×2), dried over Na2SO4 and purified by chromatography column on silica gel eluting with DCM/CH3OH to afford 334 mg (75%) of benzyl 2-(3-cyano-2-(4-(4-fluorophenoxy)phenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidin-7-yl)phenylcarbamate as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 9.34 (s, 1H), 7.76-7.74 (m, 3H), 7.45-7.10 (m, 12H), 7.02 (d, J=8.4 Hz, 2H), 6.59 (d, J=8.0 Hz, 1H), 5.85-5.80 (m, 1H), 5.17 (s, 2H), 3.25-3.18 (m, 1H), 2.97-2.87 (m, 1H), 2.36-2.24 (m, 1H), 2.08-2.00 (m, 1H).

reactant | benzyl 2-(3-cyano-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidin-7-yl)phenylcarbamate | 0.8 mmol, 370 mg | C(#N)C=1C(=NN2C1NCCC2C2=C(C=CC=C2)NC(OCC2=CC=CC=C2)=O)C2=CC=C(C=C2)O | C27H23N5O3
reactant | 4-fluorophenylboronic acid | 1.2 mmol, 167 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | CH3OH | 10 mL | CO | CH4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 100 mL | [Cl-].[Na+].O
catalyst | Cu(OAc)2 | 1.2 mmol, 216 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | benzyl 2-(3-cyano-2-(4-(4-fluorophenoxy)phenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidin-7-yl)phenylcarbamate | 334 mg, 75% | C(#N)C=1C(=NN2C1NCCC2C2=C(C=CC=C2)NC(OCC2=CC=CC=C2)=O)C2=CC=C(C=C2)OC2=CC=C(C=C2)F | C33H26FN5O3
